US06875765B2
3-(4-Acetylamino-2-benzyloxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester (0.99 g, 1.8 mmol) was dissolved in 50 mL methanol and 20% Pd/C (0.09 g) is added. The reaction was placed under 50 psi of hydrogen for approximately 1 hour. The reaction was filtered and concentrated in vacuo. The crude product was chromatographed with 2:1 ethyl acetate/hexane to yield 3-(4-acetylamino-2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester 0.7 g (85%) of an brown solid. MS (APCI) m/z 444.2 (M−1).

reactant | 3-(4-Acetylamino-2-benzyloxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 1.8 mmol, 0.99 g | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1)=O | C25H33N3O8S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.09 g | [Pd] | Pd
product | 3-(4-acetylamino-2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.7 g, 85% | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)O)=O | C18H27N3O8S
